US06806230B1
25 g (115 mmol) of 5-isopropylcarbonyl-4-trifluorometylpyrimidine was dissolved in 100 ml of ethanol, and under cooling with ice, 6 g (69 mmol) of a borane-tert-butylamine complex was added, followed by stirring for 2 hours. Further, 20 ml of acetone was added, followed by stirring for 0.5 hour. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (developing solvent/n-hexane:ethyl acetate=1:1) to obtain 22 g (yield: 87%) of 5-(1-hydroxy-2-methylpropyl)-4-trifluoromethylpyrimidine as slightly yellow liquid (nD20=1.4481)

reactant | 5-isopropylcarbonyl-4-trifluorometylpyrimidine | 115 mmol, 25 g | C(C)(C)C(=O)C=1C(=NC=NC1)C(F)(F)F | C9H9F3N2O
reactant | acetone | 20 ml | CC(=O)C | C3H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-(1-hydroxy-2-methylpropyl)-4-trifluoromethylpyrimidine | 22 g, yield: 87% | OC(C(C)C)C=1C(=NC=NC1)C(F)(F)F | C9H11F3N2O
